US07723333B2
2-tert-Butyl-4-[(2-hydroxyethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 49 from 2-aminoethanol and 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide. The residue was purified by silica gel column chromatography (Horizons Biotage) using DCM as eluent to give the title compound (1.788 g, 55%) as an oil. 1H NMR (500 MHz): δ 7.50-7.44 (m, 5H), 6.81 (t, 1H), 4.69 (t, 1H), 3.29-3.22 (m, 2H), 3.86-2.80 (m, 2H), 1.64 (s, 9H); 13C NMR (125 MHz DMSO-d6): 159.9, 136.1, 132.1, 130.0, 129.2, 125.9, 105.4, 61.2, 59.5, 46.6, 27.8; Mass Spectrum: M+H+ 325.

reactant | 2-aminoethanol | NCCO | C2H7NO
reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
product | 2-tert-Butyl-4-[(2-hydroxyethyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.788 g, 55% | C(C)(C)(C)N1S(C(=C(C1=O)NCCO)C1=CC=CC=C1)(=O)=O | C15H20N2O4S
